US06485886B1
(4-Triphenylsilyloxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile
7 g (31 mmol) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile, prepared as described in example 1.1, are dissolved in 80 ml of THF and cooled in an ice bath. After adding 10 g (34 mmol) of triphenylchlorosilane to the solution, 4.7 g (47 mmol) of triethylamine are added dropwise, keeping the temperature below 5° C. While the reaction mixture is stirred at 5° C. for 90 min, a precipitate is formed. The precipitate is filtered off and washed with THF. The filtrate is concentrated by a rotary evaporator to afford a red liquid. The residue is diluted with 2-PrOH and stirred at room temperature for 30 min. After cooling the mixture in an ice bath, the solid is isolated by filtration and washed with 2-PrOH. The product is obtained in the form of a pale yellow solid, mp 161-165° C. (Dec). The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ [ppm]: 6.79(Z)/6.94(E) (dd, 1H), 7.04(Z)/7.15(E) (dd, 1H), 7.32-7.71 (m, 22H). 1H-NMR reveals that the product is a 77:23 mixture of Z and E isomers. The signals are tentatively assigned to Z and E isomers.

reactant | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile | 31 mmol, 7 g | ON=C1C=CC(C=C1)=C(C#N)C1=CC=CC=C1 | C14H10N2O
reactant | triphenylchlorosilane | 34 mmol, 10 g | C1(=CC=CC=C1)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15ClSi
reactant | triethylamine | 47 mmol, 4.7 g | C(C)N(CC)CC | C6H15N
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | 2-propanol | CC(C)O | C3H8O
product | (4-Triphenylsilyloxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile | C1(=CC=CC=C1)[Si](ON=C1C=CC(C=C1)=C(C#N)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H24N2OSi
